US08604019B2
A mixture of 2,4-dichloro-6-methylthieno[3,2-d]pyrimidine (450 mg, 2.05 mmol), aqueous NaOH (1N, 4 mL) and THF (4 mL) was stirred at room temperature under N2. The reaction was monitored by HPLC until the reaction was completed. Then the mixture was neutralized to PH 5 by addition of 2N aqueous HCl. The solid was filtrated and dried to give 380 mg of 2-chloro-6-methylthieno[3,2-d]pyrimidin-4(3H)-one (yield was 92%) as a yellow solid. MS obsd. (ESI+) [(M+H)+]: 201.

reactant | 2,4-dichloro-6-methylthieno[3,2-d]pyrimidine | 2.05 mmol, 450 mg | ClC=1N=C(C2=C(N1)C=C(S2)C)Cl | C7H4Cl2N2S
reactant | NaOH | 1N, 4 mL | [OH-].[Na+]
reactant | HCl | 2N | Cl | ClH
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 2-chloro-6-methylthieno[3,2-d]pyrimidin-4(3H)-one | 380 mg, yield was 92% | ClC=1NC(C2=C(N1)C=C(S2)C)=O | C7H5ClN2OS
